US07820670B2
A mixture of 5-bromo-2-fluorobenzonitrile (5.00 g, 25 mmol) and hydrazine hydrate (10 mL) was heated at reflux for two hours and then it was allowed to stand at room temperature for two days. The reaction was treated with water (50 mL) and the solids were collected by filtration to give 3-Amino-5-bromo-indazole as a white solid (4.82 g, 91%): mp 165-175° C.; MS [M+H]+ 212, 214.

reactant | 5-bromo-2-fluorobenzonitrile | 25 mmol, 5.00 g | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
reactant | hydrazine hydrate | 10 mL | O.NN
solvent | water | 50 mL | O | H2O
product | 3-Amino-5-bromo-indazole | 4.82 g, 91% | NC1=NNC2=CC=C(C=C12)Br | C7H6BrN3
